US06790860B2
A solution of 0.19 ml (1.58 mmol) trichloromethyl-chloroformate in 20 ml CH2Cl2 was treated at 0° C. with 0.28 ml (3 mmol) 2-fluorophenol and 0.35 ml (3 mmol) quinoline and then stirred for 3 h at room temperature. The reaction was then cooled (0° C.) and a solution of 0.52 g (1 mmol) (2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine and 0.2 ml (2.5 mmol) pyridine in 3 ml CH2Cl2 was added, followed by 122 mg (1 mmol) DMAP. After 3 h at 0° C. the reaction was evaporated and poured into aqueous 10% KHSO4/Et2O (3×). The organic phases were washed with aqueous 10% NaCl solution, dried over Na2SO4 and evaporated. Flash chromatography on silica gel (hexane/EtOAc 9:1) gave 0.39 g (60%) (2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid 2-fluoro-phenyl ester, MS: 658 (MH+).

reactant | trichloromethyl-chloroformate | 1.58 mmol, 0.19 ml | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | 2-fluorophenol | 3 mmol, 0.28 ml | FC1=C(C=CC=C1)O | C6H5FO
reactant | quinoline | 3 mmol, 0.35 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | (2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine | 1 mmol, 0.52 g | FC1=C(COC[C@H]2NC[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C(=C1)F)F | C31H28F3NOS
reactant | pyridine | 2.5 mmol, 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid 2-fluoro-phenyl ester | 0.39 g, 60% | FC1=C(C=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C38H31F4NO3S
